US06924391B2
(2R and 2S)-3-[4-[3-(tert-Butyldiphenylsilyloxy)propyl]phenoxy]-1-[4-(tert-butoxycarbonyl) phenoxy]-2-acetoxypropane
A solution of (2R and 2S)-3-[4-[3-(tert-butyldiphenylsilyloxy)propyl]phenoxy]-1-[4-(tert-butoxycarbonyl)phenoxy]-2-propanol (6.08 g, 9.5 mmol) in a mixture of pyridine (15 ml) and acetic anhydride (15 ml) was stirred at 22° C. for 1 hour. The excess reagents were then evaporated in vacuo and the residue was filtered through a silica gel pad (elution toluene-ethyl acetate, 95:5) to give 6.48 g (100%) of the title material as a clear oil.

reactant | 3-[4-[3-(tert-butyldiphenylsilyloxy)propyl]phenoxy]-1-[4-(tert-butoxycarbonyl)phenoxy]-2-propanol | 9.5 mmol, 6.08 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCCC1=CC=C(OCC(COC2=CC=C(C=C2)C(=O)OC(C)(C)C)O)C=C1 | C39H48O6Si
reactant | acetic anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 3-[4-[3-(tert-Butyldiphenylsilyloxy)propyl]phenoxy]-1-[4-(tert-butoxycarbonyl) phenoxy]-2-acetoxypropane | 6.48 g, 100% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCCC1=CC=C(OCC(COC2=CC=C(C=C2)C(=O)OC(C)(C)C)OC(C)=O)C=C1 | C41H50O7Si
